US04760163
using isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-5-ethyl-4-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate and dimethyl sulphate in dimethylformamide there is obtained isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-5-ethyl-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, 1H--NMR (CDCl3, 400 MHz) 7.83 ppm (d, 1H), 7.33 ppm (d, 1H), 5.23 ppm (m, 1H), 3.48 ppm (s, 3H), 2.51 ppm (m, 2H), 2.34 ppm (s, 3H), 1.35 ppm (2xd, 6H), 1.09 ppm (t, 3H),

reactant | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-5-ethyl-4-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=C(C1=O)CC)C)=O | C17H18ClFN2O4
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-5-ethyl-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=C(C1=O)CC)C)C)=O | C18H20ClFN2O4
